US07718653B2
4,6-dimorpholinopyrimidin-2-amine was prepared using the following procedure: 2-amino-4,6-dichloropyrimidine (1 g, 6.10 mmol) and morpholine (5.33 ml, 60.9 mmol) were dissolved in DMA (1.1 ml) and sealed into a microwave tube. The mixture was heated to 150° C. over a period of 20 minutes in the microwave reactor. The reaction mixture was diluted with AcOEt, filtered and the filtrate concentrated to give an oil. The crude product was purified by flash chromatography on silica gel eluting with 0 to 4% methanol in dichloromethane. The solvent was evaporated to dryness to afford 4,6-dimorpholinopyrimidin-2-amine (1.15 g, 71%) as a white foam.

reactant | 2-amino-4,6-dichloropyrimidine | 6.10 mmol, 1 g | NC1=NC(=CC(=N1)Cl)Cl | C4H3Cl2N3
reactant | morpholine | 60.9 mmol, 5.33 ml | N1CCOCC1 | C4H9NO
solvent | DMA | 1.1 ml | CC(=O)N(C)C | C4H9NO
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 4,6-dimorpholinopyrimidin-2-amine | 1.15 g, 71% | O1CCN(CC1)C1=NC(=NC(=C1)N1CCOCC1)N | C12H19N5O2
